US03954869
4'-Bromo-4-biphenylyl-4-chlorophenyl ketone (74 g.), prepared by the reaction of p-chlorobenzoyl chloride and 4-bromobiphenyl in the presence of aluminium chloride, acetonitrile (12 g.) and sodamide (10 g.) were reacted in benzene by the method of Example 1 to give 3-hydroxy-3-(4'-bromo-4-biphenylyl)-3-p-chlorophenylpropionitrile, mp 160°-161°C after recrystallisation from benzene; λ max (ethanol) = 262 nm.

reactant | 4'-Bromo-4-biphenylyl-4-chlorophenyl ketone | 74 g | BrC1=CC=C(C=C1)C1=C(C=CC=C1)C1(CC=C(C=C1)C(=O)C1=CCC(C=C1)(C1=C(C=CC=C1)C1=CC=C(C=C1)Br)Cl)Cl | C37H26Br2Cl2O
reactant | p-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | 4-bromobiphenyl | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodamide | 10 g | [NH2-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | acetonitrile | 12 g | C(C)#N | C2H3N
product | 3-hydroxy-3-(4'-bromo-4-biphenylyl)-3-p-chlorophenylpropionitrile | OC(CC#N)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)C1=CC=C(C=C1)Br | C21H15BrClNO
